US04916148
A mixture of 1,2-dihydro-1,1,8-trimethyl-2-oxonaphtho[2,1-b]furan-7-carbonitrile, (0.25 g), N-bromosuccinimide (0.2 g), benzoyl peroxide (0.01 g) and carbon tetrachloride (40 ml) was stirred under reflux for 24 h. The reaction mixture was cooled, washed with water, dried and evaporated to dryness under reduced pressure, to give the required starting material, 8-bromomethyl-1,2-dihydro-1,1-dimethyl-2-oxonaphtho[2,1-b]furan-7-carbonitrile, which was used without further purification.

reactant | 1,2-dihydro-1,1,8-trimethyl-2-oxonaphtho[2,1-b]furan-7-carbonitrile | 0.25 g | CC1(C2=C(OC1=O)C=CC1=CC(=C(C=C12)C)C#N)C | C16H13NO2
reactant | N-bromosuccinimide | 0.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.01 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 8-bromomethyl-1,2-dihydro-1,1-dimethyl-2-oxonaphtho[2,1-b]furan-7-carbonitrile | BrCC1=C(C=C2C=CC=3OC(C(C3C2=C1)(C)C)=O)C#N | C16H12BrNO2
